US05206235
Step B: 4'-Methyl-2-acetoxy-1,1'-biphenyl
A solution of 1.0 g (5.4 mmol) of 4'-methyl-2-hydroxy-1,1'-biphenyl in 2.0 mL of pyridine was treated with 2 mL of acetic anhydride. The reaction mixture was stirred at room temperature for 5 hours. The solvent was removed under vacuum to yield 1.11 g (4.9 mmol,90%) of the product as an oil. 1H NMR (200 MHz,CDCl3): 2.07 (s,3H), 2.36 (s,3H), 7.07 (dd;3,8 Hz;1H), 7.15 (d,8 Hz,2H), 7.2-7.4 (m,5H).

reactant | 4'-methyl-2-hydroxy-1,1'-biphenyl | 5.4 mmol, 1.0 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)O | C13H12O
reactant | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
product | 4'-Methyl-2-acetoxy-1,1'-biphenyl | 4.9 mmol, 1.11 g, 90% | CC1=CC=C(C=C1)C1=C(C=CC=C1)OC(C)=O | C15H14O2
